US04886800
b. 2-Methyl-3-propylindole
Phenylhydrazine (162.2 g) was placed in a reaction flask fitted with a mechanical stirrer, reflux condenser with attached drying tube, internal thermometer, and addition funnel. Acetic acid (900 ml) was added, resulting in an orange solution. To this mixture was then added 2-hexanone (170 g) over 5 min, and the resulting mixture was heated to reflux with stirring for three hours. After cooling, the acetic acid solvent was removed by rotary evaporation, and the residue was poured into water (4.5 liters). This mixture was extracted three times with ethyl ether (1 liter each) and the combined organic extracts were washed twice with 1N HCl (1 liter each), once with water (1.5 liters), once with saturated sodium bicabonate solution (1 liter) and then once with brine (1 liter). The organic layer was then dried (MgSO4) and evaporated to afford an oil which was purified by two successive vacuum distillations. The title compound (72.1 g) was obtained as an oil distilling between 91.5° and 95° at a pressure of 0.0067 Pascals (0.05 mTorr). An additional portion of the title compound was obtained by chromatography of the stillpot residue over flash silica gel (500 g), eluting with dichloromethane. Evaporation of the appropriate fractions afforded more material which was combined with the distillate above to provide a total of 159.1 grams (61% yield) of the title compound, which was used immediately in step (c).

reactant | Phenylhydrazine | 162.2 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 2-hexanone | 170 g | CC(CCCC)=O | C6H12O
product | 2-Methyl-3-propylindole | 72.1 g | CC=1NC2=CC=CC=C2C1CCC | C12H15N
